US08471005B2
2-{5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-isoindol-2-yl}-acetamide
Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.112 g, 0.298 mmol) and 2-(5-Amino-1,3-dihydro-isoindol-2-yl)-acetamide (0.077 g, 0.40 mmol) were reacted in an analogous manner to Example 908D at 50° C. for 16 h in methoxypropanol. Yellow solid precipitated out which was filtered off and washed with water (47 mg, 38%). Found to be pure desired product. LCMS=415.9 (M+H), HPLC rt=2.039 min, purity=96%. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.51 (s, 1H), 9.02 (s, 1H), 8.98 (s, 1H), 8.42 (dd, J=8.7 Hz, 2.3 Hz, 1H), 7.89 (s, 1H), 7.37 (d, J=8.6 Hz, 1H), 7.34 (s, 1H), 7.18-7.10 (m, 3H), 6.99-6.95 (m, 2H), 4.01 (s, 2H), 3.94 (s, 5H), 3.29 (s, 2H).

reactant | Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.298 mmol, 0.112 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | 2-(5-Amino-1,3-dihydro-isoindol-2-yl)-acetamide | 0.40 mmol, 0.077 g | NC=1C=C2CN(CC2=CC1)CC(=O)N | C10H13N3O
solvent | methoxypropanol | COC(CC)O | C4H10O2
product | 2-{5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-isoindol-2-yl}-acetamide | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=C1CN(CC1=CC2)CC(=O)N | C22H21N7O2
